US06503907B2
In analogy to example 4.4, 5-(6-Bromo-hexyloxy)-1-phenyl-1H-indole and diethylamine were converted to yield Diethyl-[6-(1-phenyl-1H-indol-5-yloxy)-hexyl]-amine as colorless oil, MS: 365 (MH+).

reactant | 5-(6-Bromo-hexyloxy)-1-phenyl-1H-indole | BrCCCCCCOC=1C=C2C=CN(C2=CC1)C1=CC=CC=C1 | C20H22BrNO
reactant | diethylamine | C(C)NCC | C4H11N
product | Diethyl-[6-(1-phenyl-1H-indol-5-yloxy)-hexyl]-amine | C(C)N(CCCCCCOC=1C=C2C=CN(C2=CC1)C1=CC=CC=C1)CC | C24H32N2O
